US04937371
A mixture of 102 g (0.607 mol) of methyl 2,4-dihydroxybenzoate, 54 mL (0.619 mol) of allyl bromide and 126 g (0.91 mol) of anhydrous potassium carbonate in 300 mL of anhydrous acetone was stirred at reflux for 3 hours. The reaction mixture was filtered and the solid was washed with acetone. After removal of the acetone from the filtrate under reduced Pressure, the residue was distilled to give 85 g (67% yield), boiling point 106°-108° C. /0.3 mm of 2-hydroxy-4(2-propenyloxy)benzoic acid methyl ester.

reactant | methyl 2,4-dihydroxybenzoate | 0.607 mol, 102 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | allyl bromide | 0.619 mol, 54 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.91 mol, 126 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 2-hydroxy-4(2-propenyloxy)benzoic acid methyl ester | 67% yield | COC(C1=C(C=C(C=C1)OCC=C)O)=O | C11H12O4
